US05955607
A solution of 0.4 g (1 mmol) of methyl 5-[ethylsulfonyl-(2,2,6-trimethyl-chroman-4-yl)amino]pentanoate and 1.5 ml of liquid ammonia in 10 ml of methanol is allowed to stand at RT for 9 days. After concentrating in vacuo, the residue is treated with water and extracted with EA. 0.37 g of 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanamide is obtained; m.p. 127-129° C.

reactant | methyl 5-[ethylsulfonyl-(2,2,6-trimethyl-chroman-4-yl)amino]pentanoate | 1 mmol, 0.4 g | C(C)S(=O)(=O)N(CCCCC(=O)OC)C1CC(OC2=CC=C(C=C12)C)(C)C | C20H31NO5S
reactant | ammonia | N | H3N
solvent | methanol | 10 ml | CO | CH4O
product | 5-[ethylsulfonyl-(2,2,6-trimethylchroman-4-yl)amino]pentanamide | 0.37 g | C(C)S(=O)(=O)N(CCCCC(=O)N)C1CC(OC2=CC=C(C=C12)C)(C)C | C19H30N2O4S
